US07906652B2
Step 4 3-[(S)-(4-chlorophenyl)(3-hydroxyazetidin-1-yl)methyl]benzonitrile
To a mixture of 20.27 g (72.6 mmole) of 3-[(S)-[(3-chloro-2-hydroxypropyl)amino](4-chlorophenyl)methyl]benzonitrile hydrochloride and 21.3 g (245 mmole) of NaHCO3 in 600 mL of isopropanol was added 14.4 mL (174 mmole) of epibromohydrin . The mixture was heated to reflux for 24 h, then was cooled and concentrated. The residue was partitioned between 750 mL portions of ether and water and the aqueous layer was washed with two 500 mL portions of ether. The combined organic extracts were washed with brine, dried over MgSO4 and concentrated. The residue was purified by flash chromatography using 10-20% ethyl acetate in hexane to afford the title compound as a clear oil; 1H-NMR(CDCl3) δ 1.6 (s, 2H, br), 5.24 (s, 1H), 7.24-7.78 (m, 8H).2.89 (m, 2H), 3.54 (m, 2H), 4.39 (s, 1H), 4.52 (m, 1H), 7.2-7.8 (m, 8H).

reactant | 3-[(S)-[(3-chloro-2-hydroxypropyl)amino](4-chlorophenyl)methyl]benzonitrile hydrochloride | 72.6 mmole, 20.27 g | Cl.ClCC(CN[C@H](C=1C=C(C#N)C=CC1)C1=CC=C(C=C1)Cl)O
reactant | NaHCO3 | 245 mmole, 21.3 g | C(=O)(O)[O-].[Na+]
reactant | epibromohydrin | 174 mmole, 14.4 mL | C(Br)C1CO1 | C3H5BrO
solvent | isopropanol | 600 mL | C(C)(C)O | C3H8O
product | 3-[(S)-(4-chlorophenyl)(3-hydroxyazetidin-1-yl)methyl]benzonitrile | ClC1=CC=C(C=C1)[C@@H](C=1C=C(C#N)C=CC1)N1CC(C1)O | C17H15ClN2O
